US04035495
N,N,4-Trimethyl-4H-pyrrolo[2,1-c][1,4]benzoxazine-4-carboxamide
A mixture of 1-(o-hydroxyphenyl)pyrrole (500 mg), N,N-dimethyl-pyruvamide (580 mg), described by W. F. Gresham in U.S. Pat. No. 2,429,877, issued Oct. 28, 1947, 1.7 g of phosphorus pentoxide, 0.5 g of diatomaceous earth (Celite) in 75 ml of benzene is stirred at room temperature for 15 min. and then at 70° C for 11/2 hr. The reaction mixture is filtered. The filtrate is washed with water, dried (MgSO4) and concentrated to give the title compound, identical to the product of Example 15.

reactant | 1-(o-hydroxyphenyl)pyrrole | 500 mg | OC1=C(C=CC=C1)N1C=CC=C1 | C10H9NO
reactant | N,N-dimethyl-pyruvamide | 580 mg | CN(C(C(=O)C)=O)C | C5H9NO2
reactant | phosphorus pentoxide | 1.7 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
product | N,N,4-Trimethyl-4H-pyrrolo[2,1-c][1,4]benzoxazine-4-carboxamide | CN(C(=O)C1(OC2=C(N3C1=CC=C3)C=CC=C2)C)C | C15H16N2O2
